US05075461
3-benzoyloxy-2,4-pentanedione is reacted with N,N-dimethyl-formamide diethyl acetal to form 4-benzoyloxy-1-dimethylamino-1-hexene-3,5-dione, and,

reactant | 3-benzoyloxy-2,4-pentanedione | C(C1=CC=CC=C1)(=O)OC(C(C)=O)C(C)=O | C12H12O4
reactant | N,N-dimethyl-formamide diethyl acetal | C(C)OC(N(C)C)OCC | C7H17NO2
product | 4-benzoyloxy-1-dimethylamino-1-hexene-3,5-dione | C(C1=CC=CC=C1)(=O)OC(C(C=CN(C)C)=O)C(C)=O | C15H17NO4
